US07253166B2
6-Bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (100 mg, 0.41 mmol), prepared as in reference 1, is mixed with 3-hydroxy-4-methylaniline (150 mg, 1.22 mmol) and diisopropylethylamine (213 μL, 1.22 mmol) in n-butanol (1.3 mL). The mixture is heated to 120° C. for 18 hours, with stirring. The reaction is then cooled to ambient temperature and the solvent is removed. The resultant crude product is purified by flash column chromatography using a gradient of 3-5% MeOH in DCM to yield 5-(6-bromo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-2-methyl-phenol (92 mg; 70%).

reactant | 6-Bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.41 mmol, 100 mg | BrC1=CC2=C(N=CN=C2Cl)N1 | C6H3BrClN3
reactant | 3-hydroxy-4-methylaniline | 1.22 mmol, 150 mg | OC=1C=C(N)C=CC1C | C7H9NO
reactant | diisopropylethylamine | 1.22 mmol, 213 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | n-butanol | 1.3 mL | C(CCC)O | C4H10O
product | 5-(6-bromo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-2-methyl-phenol | 92 mg, 70% | BrC1=CC2=C(N=CN=C2NC=2C=CC(=C(C2)O)C)N1 | C13H11BrN4O
